US05798361
5.7 g (30 mmoles) of 2-amino-4-(4-methylphenyl)-thiazol were dissolved in 11 ml (120 mmoles) of phosphorus oxychloride. To the solution formed, 3.25 ml (30 mmoles) of 2-acetyl-butyrolactone were slowly added. The mixture was refluxed for 2 hours, allowed to cool and poured onto 100 g of ice, then basified to pH 9 by adding sodium hydroxide and extracted twice with 100 ml of methylene chloride each time. The organic phase was washed twice with 50 ml of water each time and dried, and the solvent was removed by reduced pressure distillation. The residue formed was purified on a silica gel column using methylene chloride as eluent. 3.4 g of 3-(4-methylphenyl)-6-(2-chloroethyl)-7-methyl-thiazolo[3,2-a]pyrimidin-5-one were obtained as a yellowish solid, mp 152°-165° C.

reactant | 2-amino-4-(4-methylphenyl)-thiazol | 30 mmoles, 5.7 g | NC=1SC=C(N1)C1=CC=C(C=C1)C | C10H10N2S
reactant | phosphorus oxychloride | 120 mmoles, 11 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-acetyl-butyrolactone | 30 mmoles, 3.25 ml | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-(4-methylphenyl)-6-(2-chloroethyl)-7-methyl-thiazolo[3,2-a]pyrimidin-5-one | 3.4 g | CC1=CC=C(C=C1)C1=CSC=2N1C(C(=C(N2)C)CCCl)=O | C16H15ClN2OS
